US08133911B2
A solution of methyl (2R)-2-[4-(carbamoylamino)phenyl]propanoate (2.7 g, 9.95 mmol) in dioxane (50 ml) was treated at room temperature with 3-bromo-1,1,1-trifluoro-propan-2-one (1.03 ml, 10 mmol) and the resulting mixture was refluxed for 2 h. After cooling at room temperature, the solvent was evaporated under vacuum, the crude diluted with CH2Cl2 (50 ml) and washed with a saturated NaHCO3 aqueous solution (3×30 ml), dried over anhydrous Na2SO4 and evaporated to give pure methyl (2R)-2-(4-{[4-(trifluoromethyl)-1,3-oxazol-2-yl]amino}phenyl)propanoate (2.5 g, 7.96 mmol) as yellow oil (80%). 1H-NMR (CDCl3): δ 10.05 (bs, 1H, NH), 8.30 (s, 1H), 7.45 (d, 2H, J=7 Hz), 7.25 (d, 2H, J=7 Hz), 3.75 (q, 1H, J=7 Hz), 3.65 (s, 3H), 1.50 (d, 3H, J=7 Hz).

reactant | methyl (2R)-2-[4-(carbamoylamino)phenyl]propanoate | 9.95 mmol, 2.7 g | C(N)(=O)NC1=CC=C(C=C1)[C@H](C(=O)OC)C | C11H14N2O3
reactant | 3-bromo-1,1,1-trifluoro-propan-2-one | 10 mmol, 1.03 ml | BrCC(C(F)(F)F)=O | C3H2BrF3O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | methyl (2R)-2-(4-{[4-(trifluoromethyl)-1,3-oxazol-2-yl]amino}phenyl)propanoate | 7.96 mmol, 2.5 g, 80% | FC(C=1N=C(OC1)NC1=CC=C(C=C1)[C@H](C(=O)OC)C)(F)F | C14H13F3N2O3
